US07601716B2
(4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-(4-thieno[3,2-d]pyrimidin-4-yl-piperazin-1-yl)methanone
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 1-(4-thieno[3,2-d]pyrimidinyl)piperazine as in General Procedure 10 to give the title compound. LCMS: m/z=648.99 (M+H+); retention time=0.64 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 1-(4-thieno[3,2-d]pyrimidinyl)piperazine | N1=CN=C(C2=C1C=CS2)N2CCNCC2 | C10H12N4S
product | (4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-(4-thieno[3,2-d]pyrimidin-4-yl-piperazin-1-yl)methanone | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCN(CC3)C=3C2=C(N=CN3)C=CS2)C1)C(F)(F)F | C32H27ClF3N7OS
